data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_173346_0,[C:1]([N:3]([C:2]([H:10])([H:13])[H:14])/[C:4](=[N:6]/[O:5][H:7])[H:8])([H:9])([H:11])[H:12]>>[C:1]([N:3]([C:2]([H:10])([H:13])[H:14])/[N:6]=[C:4](/[O:5][H:7])[H:8])([H:9])([H:11])[H:12],70.95330749999107
MR_606779_1,[C:1]([N:3]([H:13])[H:14])([C:4](=[C:2]([O:7][H:11])[O:8][H:12])[H:15])([O:5][H:9])[O:6][H:10]>>[C:1]1([N:3]([H:13])[H:14])([O:5][H:9])[C:2]([O:7][H:11])([O:8][H:12])[C:4]1([O:6][H:10])[H:15],55.1810950000052
MR_596259_0,[C@:1]1([O:7][H:8])([H:9])[C@@:2]([C:3]([O:6][N:4]([H:11])[H:12])([H:13])[H:14])([H:10])[O:5]1>>[C:1]1([O:7][H:8])([H:9])[C:2]([C:3]([O:6][N:4]([H:11])[H:12])([H:13])[H:14])([H:10])[O:5]1,50.70200000000668
MR_305632_1,[C:1](/[C:8](=[C:7](\[C:3](=[C:2]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])[N:6]([H:13])[H:14])[H:15])[H:16])([H:17])([H:18])[H:19]>>[C:1]([C:8]1([H:16])[C:2]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C:3]([N:6]([H:13])[H:14])=[C:7]1[H:15])([H:17])([H:18])[H:19],45.426607500021134
MR_269771_0,[C:1]1([H:11])([H:12])[C:5]([C:2]([N:6]([H:9])[H:10])([H:13])[H:14])([C:3]([C:4]([H:17])([H:18])[H:19])([H:15])[H:16])[N:7]1[H:8]>>[C:1]([C:2]([N:6]([H:9])[H:10])([H:13])[H:14])(/[C:5]([C:3]([C:4]([H:17])([H:18])[H:19])([H:15])[H:16])=[N:7]\[H:8])([H:11])[H:12],64.47688000000596
MR_531349_1,[C:1]([N:4](/[C:5]([N:7]([H:10])[H:11])=[C:8](/[C:3]([H:20])([H:21])[H:22])[H:13])/[C:6]([C:2]([H:17])([H:18])[H:19])=[N:9]/[H:12])([H:14])([H:15])[H:16]>>[C:1](/[N:4]=[C:5](/[N:7]([H:10])[H:11])[C@:8]([C:3]([H:20])([H:21])[H:22])(/[C:6]([C:2]([H:17])([H:18])[H:19])=[N:9]/[H:12])[H:13])([H:14])([H:15])[H:16],44.290205000001066
MR_28498_0,[C:1]([C:3]([C:2]([H:13])([H:14])[H:16])=[N:6]/[C:5](=[N:7]/[N:4]([H:8])[H:9])[H:10])([H:11])([H:12])[H:15]>>[C:1]([C:3]1([C:2]([H:13])([H:14])[H:16])[N:6]=[C:5]([H:10])[N:7]1[N:4]([H:8])[H:9])([H:11])([H:12])[H:15],33.46896749999942
MR_277087_1,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:14])([H:18])[H:19])([C:5]([C:2]([O:7][H:12])=[O:8])([O:9][H:11])[H:13])[O:6][H:10]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:14])([H:18])[H:19])([C:5]([C:2]([O:7][H:12])([O:8][H:11])[H:13])=[O:9])[O:6][H:10],54.17897750000279
MR_295139_2,[C:1]1([H:11])([H:12])[C:6]2([H:10])[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4]([C:2]([H:14])([H:15])[H:16])[O:9][C:8]([H:20])([H:21])[C:7]12[H:13]>>[C:1](/[C:6](=[C:5](\[C:3]([H:17])([H:18])[H:19])[C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])[H:10])([C:7](=[C:8]([H:20])[H:21])[H:13])([H:11])[H:12],38.96461249999959
MR_300070_1,[C:1]([C:2]12[O:4][N:6]1[C:3]([H:11])=[N:7]2)([O:5][H:8])([H:9])[H:10]>>[C:1]([c:2]1[o:4][n:6][c:3]([H:11])[n:7]1)([O:5][H:8])([H:9])[H:10],7.678717499981502
MR_293265_1,[C:1]([C:3](=[C:7]([H:18])[H:19])[O:8][H:9])(/[C:6](=[C:4](/[C:2]([H:15])([H:16])[H:17])[N:5]([H:10])[H:11])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:3]([C:7]([H:10])([H:18])[H:19])([O:8][H:9])[C:6]1(/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:5]/[H:11])[H:14],36.262597500008695
MR_230415_0,[C:1]([C:2]([H:10])([H:11])[H:12])([C:4]([C:3]([H:13])([H:14])[H:15])=[O:7])([O:5][O:6][H:8])[H:9]>>[C:1]1([C:2]([H:10])([H:11])[H:12])([H:9])[C:4]([C:3]([H:13])([H:14])[H:15])([O:5][O:6][H:8])[O:7]1,72.87785000001875
MR_235805_2,[C:1](\[C:2]([H:13])([H:14])[H:15])(=[N:4]\[H:11])[C:5]([O:6][N:3]([H:8])[H:9])([O:7][H:10])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:4]([H:10])[H:11])([C:5](=[O:7])[H:12])[O:6][N:3]([H:8])[H:9],23.246992500018564
MR_649953_0,[C:1]([C@:2]([C:6]([H:23])([H:24])[H:25])([N:7]([N:8]([H:12])[H:13])[O:9][H:10])[H:11])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:5]([H:14])([H:15])[H:22]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])([C:5]([H:14])([H:15])[H:22])[N:7]([C@:2]([C:6]([H:23])([H:24])[H:25])([O:9][H:10])[H:11])[N:8]([H:12])[H:13],63.0380224999648
MR_21489_0,[C:1](=[C:4]([C:2]([H:13])([H:14])[H:15])[C:5]1([H:9])[N:3]([H:8])[C:6]1([C:7]([H:11])([H:17])[H:18])[H:10])([H:12])[H:16]>>[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:5]([N:3]([C:6](=[C:7]([H:17])[H:18])[H:10])[H:8])[H:9])([H:11])([H:12])[H:16],37.63744999999744
MR_427099_0,[C:1]([C:2](/[C:4](=[N:6]/[H:11])[H:14])([H:12])[H:13])([N:3]([H:9])[H:10])([O:5][H:7])[H:8]>>[C:1](\[C:2]([C:4]([O:5][H:7])([N:6]([H:9])[H:11])[H:14])([H:12])[H:13])(=[N:3]/[H:10])[H:8],46.153252500005664
MR_225956_1,[C:1]1([O:7][C:4]([H:12])([H:13])[H:14])([O:8][H:9])[C:2]([C:5]([H:16])([H:17])[H:18])([C:6]([H:15])([H:19])[H:20])[C:3]1([H:10])[H:11]>>[C:1]([C:2]([C:5]([H:16])([H:17])[H:18])([C:6]([H:15])([H:19])[H:20])[O:7][C:4]([H:12])([H:13])[H:14])(=[C:3]([H:10])[H:11])[O:8][H:9],66.55202250001011
MR_618225_1,[C:1]([N:2]([C:3](=[C:5]([H:13])[H:14])[O:6][N:4]([H:8])[H:9])[H:7])([H:10])([H:11])[H:12]>>[C:1]([N:2]([C:3](=[C:5]([H:13])[H:14])[O:6][N:4]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12],55.26518000000692
